US07652023B2
A solution of (S)-methyl 3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-thioureidopropanoate (100 mg, 0.23 mmol) and 2-chloro cyclohexanone (36 mg, 0.28 mmol) in MeOH (5.0 mL) was heated at 70° C. for 18 h. The concentrated reaction mixture was purified by silica gel ISCO chromatography (12 g column) using hexanes/EtOAc (0-30% over 15 min). (S)-methyl 3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-(4,5,6,7-tetrahydrobenzo[d]thiazol-2-ylamino)propanoate was isolated as a clear oil, (13 mg, 11% yield). LCMS: 1.70 min [M+1] 514.3 (2 min gradient, MeOH/H2O 0.1% TFA); HPLC: 3.65 min (4 min gradient, MeOH/H2O 0.2% PPA); Purity 96%; NMR: 400 MHz 1H (CDCl3) 8.43 ppm, 1H, d, J=2.20 Hz; 7.55 ppm, 1H, dd, J=8.57, 2.42 Hz; 7.49 ppm, 1H, s; 7.29 ppm, 2H, m; 7.14 ppm, 1H, d, J=7.91 Hz; 3.98 ppm, 1H, d, J=15.82 Hz; 3.70 ppm, 1H, d, J=15.82 Hz; 3.60 ppm, 1H, s; 3.47 ppm, 3H, s; 2.40 ppm, 4H, m; 1.68 ppm, 4H, m.

reactant | (S)-methyl 3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-thioureidopropanoate | 0.23 mmol, 100 mg | ClC=1C=CC(=NC1)[C@@](CC(=O)OC)(NC(=S)N)C1=CC(=CC(=C1)C(F)(F)F)F | C17H14ClF4N3O2S
reactant | 2-chloro cyclohexanone | 0.28 mmol, 36 mg | ClC1C(CCCC1)=O | C6H9ClO
solvent | MeOH | 5.0 mL | CO | CH4O
product | (S)-methyl 3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-(4,5,6,7-tetrahydrobenzo[d]thiazol-2-ylamino)propanoate | 11% yield | ClC=1C=CC(=NC1)[C@@](CC(=O)OC)(NC=1SC2=C(N1)CCCC2)C2=CC(=CC(=C2)C(F)(F)F)F | C23H20ClF4N3O2S
